US07259266B2
Step 3. Preparation of ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A solution of ethyl 8-chloro-6-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Step 2 (1.41 g, 4.19 mmole) in anhydrous CH2Cl2 (80 mL) was cooled to −78° C. and a solution of BBr3 in CH2C2 (42 mL-1.0 M, 42.0 mmole) was added dropwise under a dry N2 atmosphere. The dry ice bath was removed and the mixture was allowed to warm to room temperature. After 3 h, the mixture was cooled to −78° C. and quenched by the addition of anhydrous MeOH (20 mL). The solvent was removed in vacuo and the residue extracted with EtOAc (200 mL). The extract was washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give a light brown solid. Purification by silica chromatography (98:2 CH2Cl2—MeOH gave 1.10 g (82% yield) of the product a as dark yellow solid: EIHRMS m/z 322.0215 (M+, C13Hn10ClF3O4, Calc'd 322.0220). 1H NMR (dmso-d6/300 MHz) 9.79 (s, 1H), 7.89 (s, 1H), 6.78-6.91 (m, 2H), 5.99 (q, 1H, J=7.3 Hz), 4.17-4.32 (m, 2H), 1.26 (t, 3H, J=7.05 Hz);

reactant | ethyl 8-chloro-6-methoxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC | C14H12ClF3O4
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | ethyl 8-chloro-6-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.10 g, 82% yield | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)O | C13H10ClF3O4
